US08471005B2
[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-methyl-3H-benzimidazol-5-yl)-amine
Following the synthetic and purification procedures described in Example 1293d, 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine (60 mg, 0.2 mmol) was coupled to 3-methyl-3H-benzimidazol-5-ylamine (53 mg, 0.36 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 33 mg (34%) of brown powder. LC/MS: 372 (M+H); HPLC: 95% pure, RT=2.29 min; 1H NMR: (DMSO, δ) 10.04 (s, 1H), 9.34 (s, 1H), 9.22 (d, J=2.0, 1H), 9.06 (s, 1H), 8.51 (s, 1H), 8.35 (dd, J=8.9, 2.4, 1H), 7.79 (d, J=9.0, 1H), 7.64 (dd, J=9.0, 1.4, 1H), 7.24 (d, J=4.9, 1H), 7.05 (s, 1H), 7.03 (d, J=4.9, 1H), 4.06 (s, 3H), 3.95 (s, 3H).

reactant | 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine | 0.2 mmol, 60 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C13H12N4O2S
reactant | 3-methyl-3H-benzimidazol-5-ylamine | 0.36 mmol, 53 mg | CN1C=NC2=C1C=C(C=C2)N | C8H9N3
product | [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-methyl-3H-benzimidazol-5-yl)-amine | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=CN1C)C=C2 | C20H17N7O
